US09302989B2
N-(4-{(E)-[(benzyloxy)imino]methyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide
In a 8 mL sealed vial was mixed N-(4-formylphenyl)isoindoline-2-carboxamide (50 mg, 0.188 mmol) in methanol (1 ml). A solution of O-benzylhydroxylamine hydrochloride (45.0 mg, 0.282 mmol) and sodium acetate (46.0 mg, 0.338 mmol) in water (1.000 ml) was then added and the reaction was stirred overnight at room temperature. The reaction was diluted with water and the product was extracted with dichloromethane. The organic layer was washed with brine, dried with sodium sulfate, decanted, and concentrated. Purification by chromatography provided the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.55 (s, 1H), 8.21 (s, 1H), 7.65 (m, 2H), 7.50 (m, 2H), 7.44-7.28 (m, 9H), 5.14 (s, 2H), 4.78 (bs, 4H); MS (ESI(+)) m/e 372 (M+H)+.

reactant | N-(4-formylphenyl)isoindoline-2-carboxamide | 0.188 mmol, 50 mg | C(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C16H14N2O2
reactant | O-benzylhydroxylamine hydrochloride | 0.282 mmol, 45.0 mg | Cl.C(C1=CC=CC=C1)ON
reactant | sodium acetate | 0.338 mmol, 46.0 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 1.000 ml | O | H2O
product | N-(4-{(E)-[(benzyloxy)imino]methyl}phenyl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(C1=CC=CC=C1)O\N=C\C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C23H21N3O2
